US05455356
In the same apparatus and procedures as Example 1 was reacted 40 ml of 4-fluorophenylmagnesiumbromide solution (2.0 M in diethylether) with 1-chloro-1-(α-chloroehtyl)-1-silacyclopentane prepared from the above procedure i) for 5hrs. In the same method as Example 1 was treated the reaction product to give 4.8 g of 1-(α-chloroethyl)-1-(4-fluorophenyl)-silacyclopentane (84°-5° C./0.3 mmHg).

reactant | 1-chloro-1-(α-chloroehtyl)-1-silacyclopentane | Cl[Si]1(CCCC1)C(C)Cl | C6H12Cl2Si
reactant | 4-fluorophenylmagnesiumbromide | 2.0 M, 40 ml | FC1=CC=C(C=C1)[Mg]Br
product | 1-(α-chloroethyl)-1-(4-fluorophenyl)-silacyclopentane | 4.8 g | ClC(C)[Si]1(CCCC1)C1=CC=C(C=C1)F | C12H16ClFSi
